US09163021B2
[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{4-[(diphenylmethylene)amino]pyridin-2-yl}methanone
To a suspension of NaOtBu (500 mg, 5.2 mmol) and [1-(2-{[tert-butyl(methyl)silyl]oxyl}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl](4-chloropyridin-2-yl)methanone (Preparation 44, 1.65 g, 3.71 mmol) in DME (5 mL) was added a solution of palladium acetate (41.8 mg, 0.186 mmol) and (R)-1-[(SP)-2-(dicyclohexylphosphino)ferrocenyl]ethyldi-tert-butylphosphine (103 mg, 0.186 mmol) in DME (2 mL) followed by a solution of benzophenone imine (808 mg, 4.46 mmol) in DME (2 mL). The reaction was degassed and heated to 80° C. for 30 minutes. The reaction was cooled, filtered through celite and partitioned between EtOAc and water. The organic layer was collected, dried over MgSO4 and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 100% heptanes to 100% EtOAc to afford the title compound as a brown oil (1.4 g, 64%).

reactant | NaOtBu | 5.2 mmol, 500 mg | CC(C)(C)[O-].[Na+]
reactant | [1-(2-{[tert-butyl(methyl)silyl]oxyl}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl](4-chloropyridin-2-yl)methanone | 3.71 mmol, 1.65 g | C(C)(C)(C)[SiH](C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)Cl | C22H28ClN3O2Si
reactant | benzophenone imine | 4.46 mmol, 808 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | palladium acetate | 0.186 mmol, 41.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (R)-1-[(SP)-2-(dicyclohexylphosphino)ferrocenyl]ethyldi-tert-butylphosphine | 0.186 mmol, 103 mg | C[C@@H]([C]1[CH][CH][CH][C]1P(C2CCCCC2)C3CCCCC3)P(C(C)(C)C)C(C)(C)C.[CH]1[CH][CH][CH][CH]1.[Fe]
product | [1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{4-[(diphenylmethylene)amino]pyridin-2-yl}methanone | 1.4 g, 64% | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C36H40N4O2Si
